US07705028B2
4e) Ethyl 6-{[(trifluoromethyl)sulfonyl]oxy}-1-naphthalenecarboxylate
Ethyl 6-hydroxy-1-naphthalenecarboxylate (3 g, 13.9 mmol) was dissolved in CH2Cl2 (24 mL) and the solution was cooled to −5° C. with an acetone-ice bath. To the cold solution was added pyridine (7 mL, 83.2 mmol) with stirring under N2. The reaction mixture was stirred at −5° C. for several minutes and triflic anhydride (2.8 mL, 16.6 mmol) was slowly added. The reaction mixture was stirred at 0° C. for 1 hr. The reaction mixture was quenched with water and extracted with ether. The organic phase was separated and washed with 1N HCl, followed by brine, dried with MgSO4, filtered, and the filtrate was concentrated. The crude material was purified by flash chromatography over SiO2 with a Hex:EtOAc (0 to 50% EtOAc) gradient to afford 3.9 g (81%) of the title compound as white crystals. 1H NMR (400 MHz, DMSO-d6): δ 8.92 (d, J=10 Hz, 1 H), 8.33 (d, J=8 Hz, 1H), 8.28 (m, 1 H), 8.23 (d, J=7 Hz, 1 H), 7.77-7.72 (m, 2 H), 4.43-4.38 (m, 2 H), 1.36 (t, J=7 Hz, 3 H).

reactant | Ethyl 6-hydroxy-1-naphthalenecarboxylate | 13.9 mmol, 3 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)OCC | C13H12O3
reactant | pyridine | 83.2 mmol, 7 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 16.6 mmol, 2.8 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 24 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 6-{[(trifluoromethyl)sulfonyl]oxy}-1-naphthalenecarboxylate | 3.9 g, 81% | FC(S(=O)(=O)OC=1C=C2C=CC=C(C2=CC1)C(=O)OCC)(F)F | C14H11F3O5S
